US06486350B1
Synthesis of N-((R/S)-3,5-difluorophenyl-α-hydroxyacetyl)-L-alanine, methyl ester
Following General Procedure E and using (R/S)-3,5-difluoromandelic acid (as set forth in General Procedure H, step A) and L-alanine, methyl ester (Bachem) the title compound was synthesized.

reactant | (R/S)-3,5-difluoromandelic acid | FC=1C=C(C(C(=O)O)O)C=C(C1)F | C8H6F2O3
reactant | L-alanine, methyl ester | N[C@@H](C)C(=O)OC | C4H9NO2
product | N-((R/S)-3,5-difluorophenyl-α-hydroxyacetyl)-L-alanine, methyl ester | FC=1C=C(C=C(C1)F)C(C(=O)N[C@@H](C)C(=O)OC)O | C12H13F2NO4
